US07538233B2
Toluene-4-sulfonic acid 2-oxo-2H-1-benzopyran-4-yl ester
A solution of 4-hydroxycoumarin (30.7 mmol, 4.98 g) and triethylamine (37.3 mmol, 5.2 mL) in THF (50 mL) is cooled to (0° C.). A THF solution (50 mL) of p-toluenesulfonyl chloride (33.5 mmol, 6.45 g) is added dropwise The mixture is stirred at 0° C. for 1.5 hrs., is filtered and the solid is washed with EtOAc. The filtrate is concentrated under reduced pressure and Et2O is added. The resulting precipitate is filtered, is washed with Et2O and is dried to afford the title compound (7.57 g, 79%); 1H NMR (CDCl3, 300 MHz) δ 7.91 (2H, m), 7.61 (2H, m), 7.34 (4H, m), 6.31 (1H, s), 1.55 (3H, s); MS (ESI, Pos.) calcd for C16H12O5S m/z [M+H]=317.0, found 317.0.

reactant | 4-hydroxycoumarin | 30.7 mmol, 4.98 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | triethylamine | 37.3 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 33.5 mmol, 6.45 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Toluene-4-sulfonic acid 2-oxo-2H-1-benzopyran-4-yl ester | 7.57 g, 79% | O=C1OC2=C(C(=C1)OS(=O)(=O)C1=CC=C(C=C1)C)C=CC=C2 | C16H12O5S
